US06716861B2
tert-Butyl (3R)-6-cyclohexyl-3-[3-(hydroxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate
A solution of ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 170) (15.2 g, 38.50 mmol) in ethanol (120 ml) was treated with portions of sodium borohydrideb (1.46 g, 38.50 mmol) and the resulting mixture was was stirred at room temperature under a nitrogen atmosphere for 5 hours. Aqueous citric acid (5%w/v, solution) was added slowly and the mixture was stirred at room temperature for a further 30 minutes. The organic solvent was removed under reduced pressure. The aqueous layer was diluted with water and extracted with ethyl acetate giving an emulsion. Anhydrous sodium chloride was added to break up the emulsion. The combined organic layers were washed with saturated sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a colourless oil (13.4 g).

reactant | ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 38.50 mmol, 15.2 g | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | sodium | [Na] | Na
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-6-cyclohexyl-3-[3-(hydroxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 13.4 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CO | C19H32N2O4
